US06586423B2
2-(4-Chloromethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile (10-3)
2-(4-Hydroxymethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile (0.883 g, 3.80 mmol) was stirred in anh CH2Cl2 (12 mL) under N2. Dimethylformamide (0.354 mL, 3.80 mmol, 1 equiv) was added followed by the addition of phosphorous oxychloride (0.294 mL, 3.80 mmol). After 4 h the reaction was concentrated and quenched by the addition of saturated NaHCO3 (aq). A precipitate formed which was filtered and washed with water to provide the titled compound. 1H NMR (DMSO-d6) δ12.35 (bs, 1H), 8.40 (d, 1H, J=5.3 Hz), 8.28 (s, 1H), 7.20 (s, 1H), 7.12 (d, 1H, J=5.3 Hz), 4.82 (s, 2H).

reactant | 2-(4-Hydroxymethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile | 3.80 mmol, 0.883 g | OCC1=CC(=NC=C1)NC=1SC(=CN1)C#N | C10H8N4OS
reactant | Dimethylformamide | 3.80 mmol, 0.354 mL, 1 equiv | CN(C=O)C | C3H7NO
reactant | phosphorous oxychloride | 3.80 mmol, 0.294 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Chloromethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile | ClCC1=CC(=NC=C1)NC=1SC(=CN1)C#N | C10H7ClN4S
